
.SUBCKT irf530v 1 2 3
**************************************
* Model Generated by MODPEX          *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved                *
* UNPUBLISHED LICENSED SOFTWARE      *
* Contains Proprietary Information   *
* Which is The Property of           *
* SYMMETRY OR ITS LICENSORS          *
*Commercial Use or Resale Restricted *
* by Symmetry License Agreement      *
**************************************
* Model generated on Mar 25, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.9992 LAMBDA=2.45483 KP=202.031
+CGSO=7.08475e-06 CGDO=1e-11
RS 8 3 0.0768295
D1 3 1 MD
.MODEL MD D IS=2.91821e-11 RS=0.0126264 N=1.20791 BV=100
+IBV=0.00025 EG=1.2 XTI=1 TT=0.0001
+CJO=4.94155e-10 VJ=2.49423 M=0.739095 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.0441808
RG 2 7 21.0444
D2 4 5 MD1
* Default values used in MD1:
* RS=0 EG=1.11 XTI=3.0 TT=0
* BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=8.42177e-10 VJ=0.5 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.400567 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 9.65292e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.400567
.ENDS irf530v

*SPICE Thermal Model Subcircuit
.SUBCKT irf530vt 3 0

R_RTHERM1         2 3  0.514  
R_RTHERM2         1 2  0.620  
R_RTHERM3         0 1  0.406  
C_CTHERM1         2 3  0.0004396  
C_CTHERM2         1 2  0.00175  
C_CTHERM3         0 1  0.02408  

.ENDS irf530vt

